US06093731
A solution of HCl (5 mL, 2 M, 10 mmol) was added to a solution of ethyl trans-4-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate (55 mg, 0.121 mmol) in dioxane (5.0 mL) and the mixture was heated at reflux for 2 h. The solvents were evaporated in vacuo and the residue was purified by column chromatography upon MCI gel (CHP 20P) using water-MeOH (100:0 to 20:80) as eluant to give trans-4-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-cyclohexanecarboxylic acid. This material was dissolved in dilute HCl (20 mL, 0.1 M), the solvents were evaporated in vacuo, and the residue triturated with Et2O to give trans-4-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylic acid hydrochloride (35 mg, 0.067 mmol) as a white solid.

reactant | HCl | 10 mmol, 2 M, 5 mL | Cl | ClH
reactant | ethyl trans-4-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}cyclohexanecarboxylate | 0.121 mmol, 55 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)OCC)NC(=N)N | C19H24ClN5O4S
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | trans-4-{[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]amino}-cyclohexanecarboxylic acid | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N[C@@H]1CC[C@H](CC1)C(=O)O)NC(=N)N | C17H20ClN5O4S
